Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fever, dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo M with PMHx sig. for superficial TCC of 
bladder, HTN, HL, and gout who presents with fever to ___ and 
dysuria x 24 hours.  Per patient, he started to fell very 
fatigued on ___ night.  On ___ (the day prior to 
admission), he continued to feel very tired, and he laid in bed 
all day.  He had some muscle aches from hips down, and developed 
burning sensation on urination.  No pain on urination.  He 
developed increased urinary frequency and urgency, no incomplete 
emptying.  He developed a fever of ___ yesterday, and had some 
chills.  After taking tylenol, his temperature came down.  He 
called his primary care doctor, ___ was told that he 
should come to the ED for evaluation and management. 
.
Of note, pt sees a urologist Dr. ___ at ___ for follow up 
on his bladder cancer.  He had a cystoscopy by Dr. ___ 
___ 2 weeks ago.  
.
In the ED, initial VS were:  98.8 79 120/72 16 98.  No CVA or 
prostate tenderness.  WBC is 19.4.  U/A suggests infection.  Pt 
received ciprofloxacin, and was transferred to the floor.
.  
Upon arrival to the floor, patient continues to have mild 
burning sensation on urination, but urinary frequency and 
urgency have resolved.  He denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia.  

 
Past Medical History:
- superficial TCC of the bladder s/p treatment with BCG (the 
last BCG treatment ___ years ago).  getting cystoscopy every 
6month to ___. in remission. 
- BPH s/p TURP
- hypertension
- hypercholesterolemia
- GERD
- gout
- peripheral neuropathy
 
Social History:
___
Family History:
Mother possible had MI in her ___, died of heart disease at age 
___.  Mother had DM and hypertension.  Father lived to his ___. 
 
Physical Exam:
Vitals - T:99.1 BP:118/80 HR:72 RR:22 02 sat:98% on RA  
GENERAL: Pleasant, well appearing, in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. No JVD.
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.  
BACK: No CVA tenderness. 
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 

 
Pertinent Results:
ADMISSION LABS:
___ 11:00AM BLOOD WBC-19.4*# RBC-5.45 Hgb-15.9 Hct-47.0 
MCV-86 MCH-29.1 MCHC-33.7 RDW-14.8 Plt ___
___ 11:00AM BLOOD Neuts-86.7* Lymphs-7.7* Monos-4.5 Eos-0.8 
Baso-0.4
___ 11:00AM BLOOD Glucose-144* UreaN-23* Creat-1.2 Na-139 
K-3.5 Cl-101 HCO3-26 AnGap-16
___ 11:10AM BLOOD Lactate-1.8
DISCHARGE LABS:
___ 07:08AM BLOOD WBC-9.3# RBC-4.93 Hgb-14.9 Hct-42.2 
MCV-86 MCH-30.2 MCHC-35.3* RDW-14.5 Plt ___
___ 07:08AM BLOOD Glucose-146* UreaN-20 Creat-1.0 Na-140 
K-3.5 Cl-102 HCO3-25 AnGap-17
___ 07:08AM BLOOD Calcium-8.5 Phos-2.4* Mg-1.9
Renal US (___): 
1. No hydronephrosis. 
2. Incompletely evaluated renal cysts but overall grossly 
similar to the CT scan from ___. 
3. Possible small AML in the interlobar area of the right 
kidney. 
MICRO:
urine culture (___): pending
blood culture (___): pending
 
Brief Hospital Course:
___ with h/o superficial TCC of the bladder and BPH s/p TURP 
followed by urologist Dr. ___ at ___ was admitted for fever 
and dysuria.  UA was suggestive of infection. 
.  
# UTI: Patient presented with fever, and symptoms of dysuria.  
UA was positive for UTI.  Patient had a cystoscopy 2 weeks ago, 
which could have precipitated this current UTI.  On rectal exam, 
he had no prostatic tenderness to palpation, so it is unlikely 
prostatitis.  Patient was treated with ciprofloxacin, and his 
WBC went down from 19.4 to 9.3 the next day.  His urinary 
symptoms resolved on the day of discharge.  Renal US showed no 
hydronephrosis, some incompletely evaluated renal cysts but 
overall grossly similar to the CT scan from ___.  A possible 
small AML in the interlobar area of the right kidney was also 
noted, which should be followed up as an outpatient.  On the day 
of discharge, the urine culture and sensititives were still 
pending.  Patient was told to call his PCP, ___, on ___ 
(the day after discharge) to follow up on the culture results. 
.
# Acute on chronic renal failure: Cr 1.2 on admission, up from 
baseline of 0.9.  Likely hypovolemic given fever and decreased 
PO intake over the past two days.  Patient was given NS 500cc 
bolus after admission, and Cr came down to 1.0 the next day. 
.
# Hypertension:  Outpatient triamterene-HCTZ and metoprolol were 
continued with holding parameters. 
.
# Hypercholesterolemia:  Outpatient simvastatin was continued. 
.
# GERD:  Outpatient omeprazole was continued. 
.
# H/o gout:  Outpatient allopurinol and colchicine were 
continued.  He had no signs of gout during this short hospital 
stay. 
.
# Peripheral neuropathy:  Patient has a history of peripheral 
neuropathy on his records, but he is not on any outpatient 
medications. 
.
# FEN:  Patient received 500cc NS on admission.  His 
electrolytes were monitored and repleted prn.  He was given 
regular diet, he tolerated POs well. 
.  
# PPX: PPI, heparin SQ, bowel regimen prn were given.  
.
# ACCESS: PIV  
.
# CODE: full code
.
# CONTACT:  ___ (___), ___

 
Medications on Admission:
ALLOPURINOL ___ daily 
COLCHICINE 0.6 mg daily
METOPROLOL TARTRATE 100 mg BID
OMEPRAZOLE 20 mg daily
SIMVASTATIN 20 mg Tablet daily
TRIAMTERENE-HYDROCHLOROTHIAZID 37.5 mg/25 mg daily
OMEGA-3 FATTY ACIDS [FISH OIL] 2,000 mg daily
 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Triamterene-Hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
6. Omega-3 Fatty Acids     Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
7. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 6 days.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Urinary tract infection

Secondary diagnses:
h/o superficial TCC of bladder
Hypertension
Hyperlipidemia
GERD

 
Discharge Condition:
Stable, afebrile, ambulating well. 

 
Discharge Instructions:
It was a pleasure to be involved in your care, Mr. ___.  
You were admitted to ___ 
because of urinary tract infection.  You were treated with 
antibiotics, and your symptoms significantly improved.  Your 
___ count normalized on the day of discharge.

Please note that your medications have been changed. 
ADDED: 6 more days of ciprofloxacin (antibiotics) to finish a 
7-day course

 
Followup Instructions:
___